Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(C)(C)OC(=O)[N:1]1[CH2:2][CH2:3][CH:4]([C:5](=[O:6])[NH:7][c:8]2[n:9][c:10](-[c:11]3[cH:12][cH:13][cH:14][o:15]3)[c:16](-[c:17]3[cH:18][cH:19][n:20][cH:21][cH:22]3)[s:23]2)[CH2:24][CH2:25]1>>[NH:1]1[CH2:2][CH2:3][CH:4]([C:5](=[O:6])[NH:7][c:8]2[n:9][c:10](-[c:11]3[cH:12][cH:13][cH:14][o:15]3)[c:16](-[c:17]3[cH:18][cH:19][n:20][cH:21][cH:22]3)[s:23]2)[CH2:24][CH2:25]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][CH:4]([C:5](=[O:6])[NH:7][c:8]2[n:9][c:10](-[c:11]3[cH:12][cH:13][cH:14][o:15]3)[c:16](-[c:17]3[cH:18][cH:19][n:20][cH:21][cH:22]3)[s:23]2)[CH2:24][CH2:25]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][CH:4]([C:5](=[O:6])[NH:7][c:8]2[n:9][c:10](-[c:11]3[cH:12][cH:13][cH:14][o:15]3)[c:16](-[c:17]3[cH:18][cH:19][n:20][cH:21][cH:22]3)[s:23]2)[CH2:24][CH2:25]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1.[N:9]#[C:10][c:11]1[cH:12][cH:13][c:14]([NH:15][C:16](=[O:17])[C:18](=[O:19])[CH:20]2[CH2:21][CH2:22][CH2:23][CH2:24][CH2:25]2)[cH:26][c:27]1[Cl:28]>>[C:1](#[C:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1)[C:18]([C:16]([NH:15][c:14]1[cH:13][cH:12][c:11]([C:10]#[N:9])[c:27]([Cl:28])[cH:26]1)=[O:17])([OH:19])[CH:20]1[CH2:21][CH2:22][CH2:23][CH2:24][CH2:25]1,[N:9]#[C:10][c:11]1[cH:12][cH:13][c:14]([NH:15][C:16](=[O:17])[C:18](=[O:19])[CH:20]2[CH2:21][CH2:22][CH2:23][CH2:24][CH2:25]2)[cH:26][c:27]1[Cl:28].[CH:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1.[NH2-:301].[Na+]>>[C:1](#[C:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1)[C:18]([C:16]([NH:15][c:14]1[cH:13][cH:12][c:11]([C:10]#[N:9])[c:27]([Cl:28])[cH:26]1)=[O:17])([OH:19])[CH:20]1[CH2:21][CH2:22][CH2:23][CH2:24][CH2:25]1,alkynyl_attack_to_carbonyl,"[(301, 1.1), ([1.1, 1], 1), (1, 18), ([18, 19], 19), (19, 301.1), ([301.1, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[c:2]([C:3]#[N:4])[cH:5][c:6](-[c:7]2[n:8][n:9]([CH:10]([CH3:11])[CH3:12])[c:13](=[O:14])[cH:15][cH:16]2)[c:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[n:24]1.[NH3:25]>>[c:1]1([NH2:25])[c:2]([C:3]#[N:4])[cH:5][c:6](-[c:7]2[n:8][n:9]([CH:10]([CH3:11])[CH3:12])[c:13](=[O:14])[cH:15][cH:16]2)[c:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[n:24]1,[Cl:101][c:1]1[c:2]([C:3]#[N:4])[cH:5][c:6](-[c:7]2[n:8][n:9]([CH:10]([CH3:11])[CH3:12])[c:13](=[O:14])[cH:15][cH:16]2)[c:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[n:24]1.[NH3:25]>>[c:1]1([NH2:25])[c:2]([C:3]#[N:4])[cH:5][c:6](-[c:7]2[n:8][n:9]([CH:10]([CH3:11])[CH3:12])[c:13](=[O:14])[cH:15][cH:16]2)[c:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[n:24]1,SNAr(ortho),"[(25, 1), ([1, 2], [2, 3]), ([3, 4], 4), (4, [4, 3]), ([3, 2], [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[cH:8][cH:7][c:5]([Br:6])[cH:4][cH:3]1.[CH3:9][O:10][CH2:11][CH2:12][CH2:13][NH:14][C:15](=[O:16])[c:17]1[cH:18][cH:19][c:20]([CH2:21][n:22]2[c:23](=[O:24])[nH:25][c:26]3[cH:27][cH:28][cH:29][cH:30][c:31]3[c:32]2=[O:33])[cH:34][cH:35]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([Br:6])[cH:7][cH:8]1)[n:25]1[c:23](=[O:24])[n:22]([CH2:21][c:20]2[cH:19][cH:18][c:17]([C:15]([NH:14][CH2:13][CH2:12][CH2:11][O:10][CH3:9])=[O:16])[cH:35][cH:34]2)[c:32](=[O:33])[c:31]2[c:26]1[cH:27][cH:28][cH:29][cH:30]2,[CH3:9][O:10][CH2:11][CH2:12][CH2:13][NH:14][C:15](=[O:16])[c:17]1[cH:18][cH:19][c:20]([CH2:21][n:22]2[c:23](=[O:24])[nH:25][c:26]3[cH:27][cH:28][cH:29][cH:30][c:31]3[c:32]2=[O:33])[cH:34][cH:35]1.[Br:101][CH2:1][c:2]1[cH:3][cH:4][c:5]([Br:6])[cH:7][cH:8]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([Br:6])[cH:7][cH:8]1)[n:25]1[c:23](=[O:24])[n:22]([CH2:21][c:20]2[cH:19][cH:18][c:17]([C:15]([NH:14][CH2:13][CH2:12][CH2:11][O:10][CH3:9])=[O:16])[cH:35][cH:34]2)[c:32](=[O:33])[c:31]2[c:26]1[cH:27][cH:28][cH:29][cH:30]2,SN2,"[(25, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1]([CH2:2][N:3]1[CH2:4][CH2:5][C:6]([C:7](=[CH2:8])[CH3:9])([CH2:10][CH:11]([CH3:12])[CH3:13])[C:14]1=[O:15])=[O:16].[CH3:17][NH2:18]>>[C:1]([CH2:2][N:3]1[CH2:4][CH2:5][C:6]([C:7](=[CH2:8])[CH3:9])([CH2:10][CH:11]([CH3:12])[CH3:13])[C:14]1=[O:15])(=[O:16])[NH:18][CH3:17],CC[O:101][C:1]([CH2:2][N:3]1[CH2:4][CH2:5][C:6]([C:7](=[CH2:8])[CH3:9])([CH2:10][CH:11]([CH3:12])[CH3:13])[C:14]1=[O:15])=[O:16].[CH3:17][NH2:18]>>[C:1]([CH2:2][N:3]1[CH2:4][CH2:5][C:6]([C:7](=[CH2:8])[CH3:9])([CH2:10][CH:11]([CH3:12])[CH3:13])[C:14]1=[O:15])(=[O:16])[NH:18][CH3:17],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(18, 1), ([1, 16], 16), (16, [16, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
